US03976693
5-Ethyl-6,7,8,9,10,11-Hexahydro-3-Methoxy-5,10-Methano-5H-Benzocyclononen-12-Imine
Using a procedure analogous to that described in Example XXVIIA for the preparation of 6,7,8,9,10,11-hexahydro-3-methoxy-5-methyl-5,10-methano-5H-benzocyclononen-12-amine there is obtained from 3.5 g. of 5-ethyl-6,7,8,9,10,11-hexahydro-3-methoxy-5,10-methano-5H-benzocyclononen-12-one, oxime 1.6 g. of the title product, b.p. 150°-160° C. (0.5 mm.).

reactant | 6,7,8,9,10,11-hexahydro-3-methoxy-5-methyl-5,10-methano-5H-benzocyclononen-12-amine | COC1=CC2=C(CC3CCCCC2(C3N)C)C=C1 | C16H23NO
reactant | 5-ethyl-6,7,8,9,10,11-hexahydro-3-methoxy-5,10-methano-5H-benzocyclononen-12-one | C(C)C12CCCCC(CC3=C1C=C(C=C3)OC)C2=O | C17H22O2
product | 5-Ethyl-6,7,8,9,10,11-Hexahydro-3-Methoxy-5,10-Methano-5H-Benzocyclononen-12-Imine | C(C)C12CCCCC(CC3=C1C=C(C=C3)OC)C2=N | C17H23NO
